US06787534B2
N-(4-Trifluoromethylcoumarin-7-yl)-4-chlorobenzenesulfonamide
To a solution of 7-amino-4-trifluoromethylcoumarin (200 mg, 0.87 mmol) and 4-dimethylaminopyridine (1 mg) in pyridine (3 ml) was added 4-chlorobenzenesulfonyl chloride (203 mg, 0.96 mmol), followed by stirring at 70 degrees for 50 minutes. To the reaction mixture was added 2 N hydrochloric acid, followed by extracting with ethyl acetate. The organic layer was washed with water and brine, dried over magnesium sulfate and evaporated. The resulting residue was crystallized from ethyl acetate-diisopropyl ether, to give 253 mg of the title compound as a pale yellow solid.

reactant | 7-amino-4-trifluoromethylcoumarin | 0.87 mmol, 200 mg | NC1=CC=C2C(=CC(OC2=C1)=O)C(F)(F)F | C10H6F3NO2
reactant | 4-chlorobenzenesulfonyl chloride | 0.96 mmol, 203 mg | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | hydrochloric acid | 2 N | Cl | ClH
catalyst | 4-dimethylaminopyridine | 1 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | N-(4-Trifluoromethylcoumarin-7-yl)-4-chlorobenzenesulfonamide | 253 mg | FC(C1=CC(OC2=CC(=CC=C12)NS(=O)(=O)C1=CC=C(C=C1)Cl)=O)(F)F | C16H9ClF3NO4S
